US05134111
(a) Preparation of 1-methoxymethoxy-8-propyl-2-naphthalenecarbaldehyde
350 g of 1-methoxymethoxy-8-propylnaphthalene was dissolved in 3 liters of absolute ether and cooled down to -35° C. 1.43 liters of a hexane solution of 1.6M n-butyl lithium was added to the solution at a temperature not higher than -30° C., followed by gradually raising the temperature and reaction at room temperature for further 1 hour. The reaction solution was again cooled down to -40° C., to which 222 ml of N,N-dimethylformamide was added in 15 minutes. The mixture was slowly raised to 10° C., to which water was added portion by portion, followed by extraction with ethyl acetate. The resultant organic phase was washed with a saturated saline solution and dried with anhydrous magnesium sulfate, after which it was concentrated under reduced pressure to obtain 460 g of a black reside. This residue was purified by silica gel column chromatography (5% ethyl acetate/hexane) to obtain 326 g of the captioned compound as a brown oily substance.

reactant | 1-methoxymethoxy-8-propylnaphthalene | 350 g | COCOC1=CC=CC2=CC=CC(=C12)CCC | C15H18O2
reactant | hexane | 1.43 liters | CCCCCC | C6H14
reactant | n-butyl lithium | 1.6M | C(CCC)[Li]
reactant | N,N-dimethylformamide | 222 ml | CN(C=O)C | C3H7NO
solvent | ether | 3 liters | CCOCC | C4H10O
solvent | water | O | H2O
product | 1-methoxymethoxy-8-propyl-2-naphthalenecarbaldehyde | 326 g | COCOC1=C(C=CC2=CC=CC(=C12)CCC)C=O | C16H18O3
